US06297196B1
Step 7: Methyl 5,8-dimethyl-4-hydroxy-6-thiochromanecarboxylate
10.40 g (0.04 mol) of methyl 5,8-dimethyl-4-oxo-6-thiochromanecarboxylate were dissolved in 200 ml of ethanol and, a little at a time, admixed with 0.89 g (0.023 mol) of sodium borohydride. The mixture was subsequently stirred at room temperature for another 1 h and then concentrated using a rotary evaporator. The residue was taken up in 200 ml of ethyl acetate, washed with sat. NaCl solution (2×100 ml), dried over MgSO4 and concentrated using a rotary evaporator.

reactant | methyl 5,8-dimethyl-4-oxo-6-thiochromanecarboxylate | 0.04 mol, 10.40 g | CC1=C2C(CCSC2=C(C=C1C(=O)OC)C)=O | C13H14O3S
reactant | sodium borohydride | 0.023 mol, 0.89 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Methyl 5,8-dimethyl-4-hydroxy-6-thiochromanecarboxylate | CC1=C2C(CCSC2=C(C=C1C(=O)OC)C)O | C13H16O3S
